US04129655
To the solution of 3.2 g of 2-bromopyridine in 50 ml of tetrahydrofuran is added 12.5 ml of 1.6 N n-butyl lithium in hexane, while stirring at -75°. After one hour the solution of 2.65 g of 2-[2-(4-oxopiperidino)-ethyl]-1,4-benzodioxan in 10 ml of tetrahydrofuran is added while stirring. After standing overnight at room temperature, the mixture is decomposed with 10 ml of saturated aqueous ammonium chloride. The organic solvent layer is separated, dried, evaporated and the residue strongly basified with aqueous ammonium hydroxide. The mixture is extracted with ethyl acetate, the extract washed with water, dried and evaporated. The residue is suspended in 10 ml of ethanol, the suspension neutralized with ethanolic hydrogen chloride and the precipitate recrystallized from ethanol-diethyl ether, to yield the 2-[2-(4-hydroxy-4-(2-pyridyl)-piperidino)-ethyl]-1,4-benzodioxan dihydrochloride, melting at 260°-262° with decomposition.

reactant | 2-bromopyridine | 3.2 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium | 1.6 N, 12.5 ml | C(CCC)[Li]
reactant | 2-[2-(4-oxopiperidino)-ethyl]-1,4-benzodioxan | 2.65 g | O=C1CCN(CC1)CCC1COC2=C(O1)C=CC=C2 | C15H19NO3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-hydroxy-4-(2-pyridyl)-piperidino)-ethyl]-1,4-benzodioxan dihydrochloride | Cl.Cl.OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=NC=CC=C2 | InChI=1S/C20H24N2O3.2ClH/c23-20(19-7-3-4-11-21-19)9-13-22(14-10-20)12-8-16-15-24-17-5-1-2-6-18(17)25-16;;/h1-7,11,16,23H,8-10,12-15H2;2*1H
